US07612114B2
Pivalic acid (R)-6-{2-[(4-carboxymethylbenzyl)ethylamino]phenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester
Synthesized from pivalic acid (R)-6-(2-ethylaminophenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester (182 mg) and (4-formylphenyl)acetic acid (420 mg) according to an analogous synthetic method to Example 212,the title compound (227 mg) was obtained.

reactant | pivalic acid (R)-6-(2-ethylaminophenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester | 182 mg | C(C)NC1=C(C=CC=C1)[C@H]1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O | C23H29NO2
reactant | (4-formylphenyl)acetic acid | 420 mg | C(=O)C1=CC=C(C=C1)CC(=O)O | C9H8O3
product | Pivalic acid (R)-6-{2-[(4-carboxymethylbenzyl)ethylamino]phenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 227 mg | C(=O)(O)CC1=CC=C(CCCNC2=C(C=CC=C2)[C@H]2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C=C1 | C32H37NO4
